US06160180
Preparation of p-toluenesulfonyl Triethylene Glycol Methyl Ether
200 g of p-toluenesulfonyl chloride and 172.4 g of triethylene glycol monomethyl ether are dissolved in 1 liter of dichloromethane and cooled to 0° C. With vigorous stirring, 236.3 g of freshly powdered potassium hydroxide are metered in at a rate such that the temperature does not exceed 5° C. The mixture is maintained at 0° C. for 3 hours. 1 liter of dichloromethane and 1.2 liters of iced water are added. If more solids form, a further 0.5 liter of iced water are added. The organic phase is separated off and washed with 0.3 liter of saturated sodium chloride solution. It is dried over Na2SO4 and evaporated to dryness under reduced pressure.

reactant | p-toluenesulfonyl chloride | 200 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylene glycol monomethyl ether | 172.4 g | COCCOCCOCCO | C7H16O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 1.2 liters | O | H2O
reactant | water | 0.5 liter | O | H2O
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
product | p-toluenesulfonyl Triethylene Glycol Methyl Ether | COC(COCCOCCO)S(=O)(=O)C1=CC=C(C=C1)C | C14H22O6S
